US07098222B2
6-[2-((2R)-2-Methyl-pyrrolidin-1-yl)-ethyl]-2-(1-pyridin-3-yl-cyclobutyl)-quinoline
The title compound was prepared using the procedure described in Example 1G using 1-(1-pyridin-3-yl-cyclobutyl)-ethanone for 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone. 1H NMR (300 MHz, CDCl3) δ 1.12 (d, J=6.10 Hz, 3H), 1.46 (m, 1H), 1.75 (m, 2H), 1.92 (m, 1H), 2.05 (m, 2H), 2.23 (q, J=8.82 Hz, 1H), 2.37 (m, 2H), 2.77 (m, 2H), 2.94-3.22 (m, 5H), 3.28 (m, 1H), 7.17 (m, 1H), 7.19 (m, 1H), 7.56 (s, 1H), 7.58 (dd, J=8.48, 2.03 Hz, 1H), 7.65 (ddd, J=8.05, 2.46, 1.70 Hz, 1H), 7.95 (d, J=8.81 Hz, 1H), 8.04 (d, J=8.48 Hz, 1H), 8.41 (dd, J=4.75, 1.70 Hz, 1H), 8.70 (dd, J=2.37, 0.68 Hz, 1H); MS (DCI-NH3) [M+H]+ at 372.

reactant | 1-(1-pyridin-3-yl-cyclobutyl)-ethanone | N1=CC(=CC=C1)C1(CCC1)C(C)=O | C11H13NO
reactant | 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)C=1SC=CC1 | C10H9NOS2
reactant | NH3 | N | H3N
product | 6-[2-((2R)-2-Methyl-pyrrolidin-1-yl)-ethyl]-2-(1-pyridin-3-yl-cyclobutyl)-quinoline | C[C@H]1N(CCC1)CCC=1C=C2C=CC(=NC2=CC1)C1(CCC1)C=1C=NC=CC1 | C25H29N3
